US09403804B2
c) 1-(4-Nitro-phenyl)-cyclopentanecarboxylic acid tert-butyl ester
A solution of 1-(4-nitro-phenyl)-cyclopentanecarboxylic acid (as prepared in the previous step) in THF at −78° C. in a pressure bottle is treated with 2 drops of concentrated sulfuric acid, and isobutylene gas is condensed into the mixture. The mixture is stirred 24 h at RT, cooled to −78° C. and quenched with satd aq NaHCO3. The mixture is warmed to RT and extracted with EtOAc. The organic layer is dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography with an appropriate solvent to afford the title compound.

reactant | 1-(4-nitro-phenyl)-cyclopentanecarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13NO4
reactant | isobutylene | CC(C)=C | C4H8
solvent | THF | C1CCOC1 | C4H8O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 1-(4-Nitro-phenyl)-cyclopentanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H21NO4
